US08975254B2
5-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethylcarbamoyl)pyrazine-2-carboxylic acid
Pyrazine-2,5-dicarboxylic acid (0.58 g; 3.42 mmol), anhydrous HOBt (0.69 g; 5.13 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.98 g: 5.13 mmol) were added to 5 ml of DCM. 2-(5-(3,4-dichlorophenyl)furan-2-yl)-ethanamine hydrochloride (1.0 g; 3.42 mmol) and DIPEA (0.89 ml; 5.13 mmol) were dissolved in 5 ml of DCM and added dropwise to the previous mixture. The reaction mixture was stirred overnight after which pyrazine-2,5-dicarboxylic acid (0.58 g; 1.59 mmol) and DIPEA (0.60 ml; 3.42 mmol) were added and the mixture was again stirred for 5 h. Anhydrous HOBt (0.69 g; 5.13 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.98 g: 5.13 mmol) and DIPEA (0.89 ml; 5.13 mmol) were again added to drive the reaction to completion. After overnight stirring the mixture was diluted with 20 ml of DCM and washed with 3×10 ml water. The organic phase was dried over Na2SO4, filtered and used as such without further purification.

reactant | Pyrazine-2,5-dicarboxylic acid | 3.42 mmol, 0.58 g | N1=C(C=NC(=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | HOBt | 5.13 mmol, 0.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.13 mmol, 0.98 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(5-(3,4-dichlorophenyl)furan-2-yl)-ethanamine hydrochloride | 3.42 mmol, 1.0 g | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
reactant | DIPEA | 5.13 mmol, 0.89 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrazine-2,5-dicarboxylic acid | 1.59 mmol, 0.58 g | N1=C(C=NC(=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | DIPEA | 3.42 mmol, 0.60 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 5.13 mmol, 0.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.13 mmol, 0.98 g | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 5.13 mmol, 0.89 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethylcarbamoyl)pyrazine-2-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1N=CC(=NC1)C(=O)O | C18H13Cl2N3O4
